US07425634B2
(39a) Ethyl(2-ethyl-1,3-dioxolan-2-yl)acetate
A mixture of ethyl 3-oxopentanoate (5 g, 34.7 mmol), ethylene glycol (10.8 g, 174 mmol), triethyl orthoformate (5.14 g, 34.7 mmol), and p-toluenesulfonic acid monohydrate (598 mg, 3.14 mmol) was stirred at room temperature overnight. To the reaction mixture, heptane and ethyl acetate were added to dilute solution, which was washed with water. The organic layer was washed with a saturated saline solution, dried over magnesium sulfate, filtrated and the filtrate was concentrated under reduced pressure. The residue was dissolved in heptane and subjected to NH silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=1/0→10/1) to obtain the title compound (3.85 g, yield: 58.9%) as colorless oil.

reactant | ethyl 3-oxopentanoate | 34.7 mmol, 5 g | O=C(CC(=O)OCC)CC | C7H12O3
reactant | ethylene glycol | 174 mmol, 10.8 g | C(CO)O | C2H6O2
reactant | triethyl orthoformate | 34.7 mmol, 5.14 g | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid monohydrate | 3.14 mmol, 598 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | Ethyl(2-ethyl-1,3-dioxolan-2-yl)acetate | 3.85 g, yield: 58.9% | C(C)OC(CC1(OCCO1)CC)=O | C9H16O4
